US04567267
A. α-Chloro-N-(cyanomethyl)benzeneacetamide
9.2 g (0.10 m) aminoacetonitrile and 19.0 g (0.11 m) α-chlorophenylacetyl chloride are heated to reflux in methylene chloride for 4 hours. The reaction mixture is filtered and the solvent is removed. The residual solid is recrystallized from benzene to give 16.7 g (80% yield) of the title compound, which has a melting point of 73°-4° C.

reactant | aminoacetonitrile | 9.2 g | NCC#N | C2H4N2
reactant | α-chlorophenylacetyl chloride | 19.0 g | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | α-Chloro-N-(cyanomethyl)benzeneacetamide | 16.7 g, 80% yield | ClC(C(=O)NCC#N)C1=CC=CC=C1 | C10H9ClN2O
